Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
blurry vision, visual field cut and headache in the setting of 
recent head trauma
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ y/o female transferred from ___ with an acute 
right occipital hemorrhage. She states that she experienced a 
mechanical fall while wearing wool socks on ___. She 
denies any dizziness or LOC prior to or after the fall. She 
denied any headache, nausea, vomiting or other neurologic 
deficits after the fallShe states that she struck the back of 
her head. She was able to stand up and return to her normal 
behaviors. Last night she developed a frontal headache and new 
onset blurred vision. She stated she took 400mg of Ibuprofen 
last night without improvement. These symptoms continued into 
the morning and she called EMS and was transported to ___ 
___. She underwent a CT head which showed an acute right 
occipital hemorrhage. She was transferred to ___ for further 
evaluation. She notes blurred vision but denies nausea, 
vomiting, fever, chills, CP, SOB or diplopia. She denies upper 
or lower extremity weakness.

 
Past Medical History:
- Stroke in ___ worked up at ___. deficits included trouble 
with language and reading along with right sided weakness. Since 
the stroke she has switched from right hand dominant to left. 
- HLD
- psoriasis

 
Social History:
___
Family History:
Non-contributory; no fhx of stroke
 
Physical Exam:
ON ADMISSION:
PHYSICAL EXAM:
T: 98.5   BP: 147/71  HR: 92   RR: 16   O2Sats 97% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 4-3mm bilaterally. EOMs intact with lateral gaze
nystagmus.
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 4 to
3mm bilaterally. Left visual field deficit. 
III, IV, VI: Extraocular movements intact bilaterally with
lateral gazy nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. LUE/LLE full strength. RUE ___ with + pronator drift.
LLE 4+ IP, otherwise ___ throughout.

Sensation: Intact to light touch bilaterally.

AT DISCHARGE:

ON ADMISSION:
PHYSICAL EXAM:
T: 98.5   BP: 147/71  HR: 92   RR: 16   O2Sats 97% RA
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 4-3mm bilaterally. EOMs intact 

Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.

Orientation: Oriented to person, place, and date.

Language: Speech fluent with good comprehension and repetition.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested.
II: Pupils equally round and reactive to light, 4 to
3mm bilaterally. Left visual field deficit found on visual 
fields to confrontation. 
III, IV, VI: Extraoccular movements intact bilaterally.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
strength is ___ throughout when good effort given. 

Sensation: Intact to light touch bilaterally.
 
Pertinent Results:
EEG RESULTS:
 
___ ___

History: ___ with right occipital hemorrhage and 
visual distortions. Assess for evidence of epilepsy. 

This is a 23 electrode EEG ___ placement with T1/T2) recorded 
with video, with additional EOG and EKG electrodes.

ABNORMALITY #1: The background showed an asymmetry of voltage 
between the two hemispheres posteriorly, with an attenuation of 
activity over the right posterior quadrant compared to the left. 


ABNORMALITY #2: Intermittent focal theta and delta frequency 
slowing was seen over the right hemisphere throughout the 
recording. 

BACKGROUND: Waking background over the left hemisphere was 
characterized by a 10.5 Hz maximum posterior dominant rhythm.  
Symmetric ___ mcV beta activity is present, maximal over 
bilateral frontal regions. 

HYPERVENTILATION: Hyperventilation could not be performed. 

INTERMITTENT PHOTIC STIMULATION: Stepped photic stimulation from 
___ flashes per second (fps) produced no activation of the 
record.

SLEEP: During drowsiness, the background slowed to central theta 
activity, frontal beta activity became more prominent, and the 
alpha rhythm attenuated and became intermittent. Stage 2 sleep 
was not recorded. 

CARDIAC MONITOR: A single EKG channel showed a generally regular 
rhythm with an average rate of 60-70 bpm.

IMPRESSION: This is an abnormal awake and drowsy routine bedside 
EEG due to (1) focal attenuation of background activity over the 
right posterior quadrant, and (2) intermittent focal slowing 
over the entire right hemisphere.  These findings are consistent 
with cortical dysfunction over the right posterior brain, and 
focal subcortical dysfunction affecting the remainder of the 
right hemisphere.   There are no epileptiform discharges or 
seizures present.  

 
Brief Hospital Course:
___: Mrs. ___ was transferred from ___ with 
acute right occipital hemorrhage. No acute cervical spine 
fractures were identified on CT of the c-spine.  

___: MRI of brain was ordered to rule-out structural lesion or 
explanation for the acute right occipital hemorrhage aside from 
fracture. Ophthalmology was consulted for a dilated eye exam to 
rule-out papilledema. They suggested formal visual field testing 
in their office at a later date. ___ was consulted to evaluate 
safety to return home.

___: The patient had two acute episodes of visual distortion, 
during which she described surroundings "appeared small and room 
appeared long and distorted."  A CT was obtained and found to be 
stable.  The incident was discussed with neurology, who 
recommended increasing the Keppra and oredering EEG monitoring.

___: The patient remained neurologically intact and worked 
with Physical Therapy, who recommended rehab, as the patient 
feels unsteady on her feet. Preliminary EEG results from 
overnight were read as "no seizures." Keppra dosing was set at 1 
gm BID. 

___: The patient's exam remains stable. Disposition planning 
initiated for placement into rehab for instability on feet. 

___: The patient remains hemodynamically and neurologically 
stable. Her EEG final read revealed (1) focal attenuation of 
background activity over the right posterior quadrant, and (2) 
intermittent focal slowing over the entire right hemisphere.  
These findings are consistent with cortical dysfunction over the 
right posterior brain, and focal subcortical dysfunction 
affecting the remainder of the right hemisphere.   There are no 
epileptiform discharges or seizures present.  She is stable and 
ready for discharge to rehabilitation facility for physical 
therapy.  

 
Medications on Admission:
Simvastatin 20mg PO QPM
Ibuprofen 200mg PO PRN pain, last dose ___ ___

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Acetaminophen-Caff-Butalbital ___ TAB PO Q6H:PRN headache 
3. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
4. Docusate Sodium 100 mg PO BID 
5. HydrALAzine ___ mg IV Q6H:PRN > 140 
6. LeVETiracetam 1000 mg PO BID 
7. Ondansetron 4 mg IV Q8H:PRN nausea 
8. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Simvastatin 20 mg PO QPM 
11. Sodium Chloride 0.9%  Flush 3 mL IV Q8H and PRN, line flush 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Right occipital bleed

 
Discharge Condition:
Mental Status: Clear and coherent with occasional inattention.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent, though feels 
unsteady.

 
Discharge Instructions:
Brain Hemorrhage without Surgery

Activity
•We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
•You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
•No driving while taking any narcotic or sedating medication. 
•If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
•No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
•***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
•You have been discharged on Keppra (Levetiracetam). This 
medication helps to prevent seizures. Please continue this 
medication as indicated on your discharge instruction. It is 
important that you take this medication consistently and on 
time. 

•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
•You may have difficulty paying attention, concentrating, and 
remembering new information.
•Emotional and/or behavioral difficulties are common. 
•Feeling more tired, restlessness, irritability, and mood 
swings are also common.
•Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
•Headache is one of the most common symptom after a brain 
bleed. 
•Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
•Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
•There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the incision 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Nausea and/or vomiting
•Extreme sleepiness and not being able to stay awake
•Severe headaches not relieved by pain relievers
•Seizures
•Any new problems with your vision or ability to speak
•Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___